US07317024B2
To a solution of anthracene-1-carboxylic acid (2.5 g, 11.26 mmol) in THF (30 ml) was added DMF (1.75 ml, 22.52 mmol). The solution was cooled to 0° C. and oxalyl dichloride (2M in CH2Cl2, 22.5 ml, 45 mmol) was added dropwise. The reaction solution was stirred at room temperature for 2 hours and then was cannulated into a solution of concentrated ammonium hydroxide (25 ml) in a 3-necked flask cooled at 0° C. The reaction mixture was allowed to warm to room temperature and stirred for 24 hours. The white precipitate was filtered and washed with water to give anthracene-1-carboxylic acid amide as an off-white solid (2.58 g, 100% yield). LC/MS (m/z 222.15 (M+H)+); HPLC (Column: Shimadzu VP-0DS, C-18 Ballistic; 10-90% aq CH3OH/0.1% H3PO4, same for compounds hereafter unless noted) Rt: 2.872 min.

reactant | anthracene-1-carboxylic acid | 11.26 mmol, 2.5 g | C1(=CC=CC2=CC3=CC=CC=C3C=C12)C(=O)O | C15H10O2
reactant | DMF | 22.52 mmol, 1.75 ml | CN(C)C=O | C3H7NO
reactant | oxalyl dichloride | 45 mmol, 2M, 22.5 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | ammonium hydroxide | 25 ml | [OH-].[NH4+]
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | anthracene-1-carboxylic acid amide | 2.58 g, 100% yield | C1(=CC=CC2=CC3=CC=CC=C3C=C12)C(=O)N | C15H11NO
